US07915411B2
4-[2-Amino-4-(3-bromo-phenoxymethyl)-phenylsulfanyl]-phenol
A solution of 4-[4-(3-Bromo-phenoxymethyl)-2-nitro-phenylsulfanyl]-phenol (325 mg, 0.752 mmol), iron dust (210 mg, 3.76 mmol) and ammonium chloride (60 mg, 1.13 mmol) in tetrahydrofuran (5 mL), water (1.5 mL) and ethanol (5 mL) was heated at reflux for 2.5 hours. After cooling to room temperature, the solution was filtered through a pad of celite, which was washed with methanol. The filtrate was then concentrated under vacuum, then dissolved in water (20 mL) and extracted with ethyl acetate (2×20 mL). The organic extracts were dried and concentrated under vacuum to provide the title compound as a light yellow solid (240 mg, 79%).

reactant | 4-[4-(3-Bromo-phenoxymethyl)-2-nitro-phenylsulfanyl]-phenol | 0.752 mmol, 325 mg | BrC=1C=C(OCC2=CC(=C(C=C2)SC2=CC=C(C=C2)O)[N+](=O)[O-])C=CC1 | C19H14BrNO4S
reactant | ammonium chloride | 1.13 mmol, 60 mg | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | iron | 3.76 mmol, 210 mg | [Fe] | Fe
product | 4-[2-Amino-4-(3-bromo-phenoxymethyl)-phenylsulfanyl]-phenol | 240 mg, 79% | NC1=C(C=CC(=C1)COC1=CC(=CC=C1)Br)SC1=CC=C(C=C1)O | C19H16BrNO2S
